US05189054
Scheme I, step f: 3-[(Phenylsulfonyl)methylamino]-2-carbethoxy-4,6-dichloroindole
Dissolve 3-[(phenylsulfonyl)methylamino]-2-carbethoxy-4,6-dichloro-tert-butyloxycarbonyl-indole (400 mg, 0.758 mmol) in methylene chloride (15 mL). Add, by dropwise addition, trifluoroacetic acid (15 mL) and stir at room temperature for 3 hours. Evaporate the solvent in vacuo and treat the resulting residue with saturated sodium hydrogen carbonate. Extact into methylene chloride and dry (MgSO4). Recrystallize (ethyl acetate/hexane) to give the title compound (70 mg, 22%); mp 244°-45° C.

reactant | 3-[(phenylsulfonyl)methylamino]-2-carbethoxy-4,6-dichloro-tert-butyloxycarbonyl-indole | 0.758 mmol, 400 mg | C1(=CC=CC=C1)S(=O)(=O)CNC1=C(NC2=CC(=C(C(=C12)Cl)C(=O)OC(C)(C)C)Cl)C(=O)OCC | C23H24Cl2N2O6S
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-[(Phenylsulfonyl)methylamino]-2-carbethoxy-4,6-dichloroindole | 70 mg, 22% | C1(=CC=CC=C1)S(=O)(=O)CNC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C18H16Cl2N2O4S
